US09278940B2
To a solution of 2-amino-4,6-dimethoxybenzamide (0.737 g, 3.76 mmol) and 6-fluoropicolinaldehyde (0.470 g, 3.76 mmol) in N,N-dimethylacetamide (20 mL), NaHSO3 (58.5% SO2 content, 1.0 g, 5.63 mmol) and p-toluenesulfonic acid monohydrate (0.143 g, 0.75 mmol) were added. The reaction was heated at 120° C. for 20 h. After that time the reaction was cooled to rt, concentrated under reduced pressure, diluted with water (50 mL) and saturated NaHCO3 solution was added to adjust the pH to 8. The precipitated solids were collected by filtration, washed with water and dried. The product was purified by flash column chromatography (silica gel, 99:1 dichloromethane/methanol to 97:3 dichloromethane/methanol) to give 2-(6-fluoropyridin-2-yl)-5,7-dimethoxyquinazolin-4(3H)-one (0.550 g, 49%) as a yellow solid: 1H NMR (400 MHz, DMSO-d6) δ 11.34 (s, 1H), 8.28-8.33 (m, 1H), 8.19-8.27 (m, 1H), 7.47 (dd, J=8.01, 1.76 Hz, 1H), 6.82 (d, J=2.34 Hz, 1H), 6.62 (d, J=2.34 Hz, 1H), 3.91 (s, 3H), 3.86 (s, 3H); 19F NMR (376 MHz, DMSO-d6) δ −68.08 (d, J=8.03 Hz); ESI MS m/z 302 [M+H]+.

reactant | 2-amino-4,6-dimethoxybenzamide | 3.76 mmol, 0.737 g | NC1=C(C(=O)N)C(=CC(=C1)OC)OC | C9H12N2O3
reactant | 6-fluoropicolinaldehyde | 3.76 mmol, 0.470 g | FC1=CC=CC(=N1)C=O | C6H4FNO
reactant | NaHSO3 | 5.63 mmol, 1.0 g | OS(=O)[O-].[Na+]
reactant | p-toluenesulfonic acid monohydrate | 0.75 mmol, 0.143 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | N,N-dimethylacetamide | 20 mL | CN(C(C)=O)C | C4H9NO
product | 2-(6-fluoropyridin-2-yl)-5,7-dimethoxyquinazolin-4(3H)-one | 0.550 g, 49% | FC1=CC=CC(=N1)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC | C15H12FN3O3
